US04593102
3-[(4-Chlorophenyl)thio]-N-[2-(dimethylamino)ethyl]-1-piperidinecarboxamide Monohydrochloride
A solution of 5.70 g (0.0352 mole) of 1,1'-carbonyldiimidazole and 2.91 g (0.033 mole) of N,N-dimethylaminoethylamine in 200 ml of tetrahydrofuran was stirred at room temperature for 1.5 hr. A solution of 7.02 g (0.031 mole) of 3-[(4-chlorophenyl)thio]piperidine in 50 ml of tetrahydrofuran was added and the solution was refluxed for 10 hr. The volume of the reaction solution was reduced to about 50 ml in vacuo. The solution was quenched in water and the aqueous mixture was extracted with methylene chloride. The methylene chloride phase was dried over magnesium sulfate and the solvent was removed in vacuo to give an oil, the free base of the title compound. The free base was converted to the hydrochloride salt and recrystallized as in Example 14 to give 8.48 g (72.3%) of white crystals, m.p. 175°-176.5° C.

reactant | 1,1'-carbonyldiimidazole | 0.0352 mole, 5.70 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylaminoethylamine | 0.033 mole, 2.91 g | CNN(NC)CC | C4H13N3
reactant | 3-[(4-chlorophenyl)thio]piperidine | 0.031 mole, 7.02 g | ClC1=CC=C(C=C1)SC1CNCCC1 | C11H14ClNS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)thio]-N-[2-(dimethylamino)ethyl]-1-piperidinecarboxamide Monohydrochloride | Cl.ClC1=CC=C(C=C1)SC1CN(CCC1)C(=O)NCCN(C)C | InChI=1S/C16H24ClN3OS.ClH/c1-19(2)11-9-18-16(21)20-10-3-4-15(12-20)22-14-7-5-13(17)6-8-14;/h5-8,15H,3-4,9-12H2,1-2H3,(H,18,21);1H
